US08664230B2
Step A: 2,4-difluorobenzoyl Chloride
To a solution of 2,4-difluorobenzoic acid (0.100 g, 0.633 mmol) in DCM (3.16 ml) were added oxalyl chloride (0.066 ml, 0.759 mmol) and DMF (0.490 μl, 6.33 μmol) at 0° C. The reaction mixture was stirred for overnight at room temperature. The reaction mixture was concentrated in vacuo, which was used for the next step without further purification. 1H-NMR (CDCl3, Varian 400 MHz) δ 6.92-9.98 (1H, m), 7.01-7.06 (1H, m), 8.16-8.22 (1H, m).

reactant | 2,4-difluorobenzoic acid | 0.633 mmol, 0.100 g | FC1=C(C(=O)O)C=CC(=C1)F | C7H4F2O2
reactant | oxalyl chloride | 0.759 mmol, 0.066 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 6.33 μmol, 0.490 μl | CN(C)C=O | C3H7NO
solvent | DCM | 3.16 ml | C(Cl)Cl | CH2Cl2
product | 2,4-difluorobenzoyl Chloride | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
